US05753665
A mixture of 3-(4-chlorophenoxy)-2-butanone (34.50 g) and N,N-dimethylformamide dimethylacetal (20.70 g) was heated under argon in an oil bath at 120° C. for 13 hours. The methanol produced in the reaction was removed under reduced pressure and the residual oil triturated with n-hexane. The solid was collected by filtration and washed with cold diethyl ether to give 4-(4-chlorophenoxy)-1-(dimethylamino)-1-penten-3-one. Yield 32.50 g.

reactant | 3-(4-chlorophenoxy)-2-butanone | 34.50 g | ClC1=CC=C(OC(C(C)=O)C)C=C1 | C10H11ClO2
reactant | N,N-dimethylformamide dimethylacetal | 20.70 g | COC(N(C)C)OC | C5H13NO2
solvent | methanol | CO | CH4O
product | 4-(4-chlorophenoxy)-1-(dimethylamino)-1-penten-3-one | ClC1=CC=C(OC(C(C=CN(C)C)=O)C)C=C1 | C13H16ClNO2
